US03950528
3-Amino-1-(4-fluorobenzyl)-pyrazol-5-one ##SPC9##
17.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and 13 g of 4-fluorobenzylhydrazine, on stirring for 5 hours in ethanol at 60° and working up as described in Example 1, yield 13.2 g of the compound identified above as colorless crystals of melting point 148°, corresponding to 63% of theory.

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 17.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 4-fluorobenzylhydrazine | 13 g | FC1=CC=C(CNN)C=C1 | C7H9FN2
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-(4-fluorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC=C(C=C1)F | C10H10FN3O
